US07449456B2
3-Fluoronitrobenzene and 2-morpholin-4-yl ethylamine were added, and the resulting compound was subjected to catalytic hydrogenation in the same manner as shown in Reference Example 3 and then treated with 4 M hydrogen chloride/ethyl acetate solution in ethyl acetate to obtain 3-[N-(2-morpholin-4-ylethyl)amino]aniline hydrochloride. F: 222.

reactant | 3-Fluoronitrobenzene | FC=1C=C(C=CC1)[N+](=O)[O-] | C6H4FNO2
reactant | 2-morpholin-4-yl ethylamine | N1(CCOCC1)CCN | C6H14N2O
reactant | hydrogen chloride ethyl acetate | 4 M | Cl.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[N-(2-morpholin-4-ylethyl)amino]aniline hydrochloride | Cl.N1(CCOCC1)CCNC=1C=C(N)C=CC1 | InChI=1S/C12H19N3O.ClH/c13-11-2-1-3-12(10-11)14-4-5-15-6-8-16-9-7-15;/h1-3,10,14H,4-9,13H2;1H
